US08022222B2
3-(2-(4-Methylthiazol-2-ylamino)pyridin-4-ylthio)phenol
A 3 dram vial was charged with 4-(3-(tert-butyldimethylsilyloxy)phenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine (0.470 g, 1.09 mmol and THF (2 mL) and 6M HCl (1 mL) were added. The reaction mixture was stirred at room temperature overnight, then diluted with water and extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered and concentrated to give desired product (0.309 g, 89.6% yield) as yellow solid. 1H NMR (DMSO) δ 11.07 (s, 1H), 9.84 (s, 1H), 8.08 (d, 1H), 7.32 (t, 1H), 6.98 (m, 1H), 6.92 (m, 2H), 6.76 (d, 1H), 6.59 (dd, 1H), 6.51 (d, 1H), 2.20 (d, 3H); Mass spectrum (esi) m/z=316 (100) (M+H).

reactant | 4-(3-(tert-butyldimethylsilyloxy)phenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)SC1=CC(=NC=C1)NC=1SC=C(N1)C | C21H27N3OS2Si
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | HCl | 6M, 1 mL | Cl | ClH
solvent | water | O | H2O
product | 3-(2-(4-Methylthiazol-2-ylamino)pyridin-4-ylthio)phenol | 0.309 g, 89.6% yield | CC=1N=C(SC1)NC1=NC=CC(=C1)SC=1C=C(C=CC1)O | C15H13N3OS2
